US05516788
iii) cis-5a,5,6,10b-tetrahydro-7-methyl-9-methoxyindeno[2,1-b]indole
To a stirred suspension of 0.74 g of (0.00296 mol) of 5,6-dihydro-7-methyl-9-methoxyindeno[2,1-b]indole in 25 ml of acetic acid was added 0.93 g (0.0148 mol) of NaCNBH3 in portions during 5 minutes. The mixture was stirred for 3 hours at room temperature, whereafter it was diluted with water and then stirred for another hour. The resulting mixture was alkalinized with NaOH-solution (10M) to pH9, and was then extracted twice with ether. The combined organic phases were washed twice with aqueous NaCl-solution and dried (Na2SO4). After evaporation the residue was purified by chromatography on silica using methylene chloride as eluant. This gave 0.61 g (24%) of the expected product. M.p. 104° C. 1H NMR (CDCl3): 2.2 (3H,s), 3.0-3.4 (2H,dd), 3.4-3.5 (1H,bs), 3.75 (3H,s), 4.65-4.80 (2H,m), 6.4-7.4 (6H,m)--thereof 6.45 (1H,dd), 6.75 (1H,dd).

reactant | 5,6-dihydro-7-methyl-9-methoxyindeno[2,1-b]indole | 0.00296 mol, 0.74 g | CC1=C2CC=3NC4=CC=CC=C4C3C2=CC(=C1)OC | C17H15NO
reactant | NaCNBH3 | 0.0148 mol, 0.93 g | [BH3-]C#N.[Na+]
reactant | NaOH | 10M | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | cis-5a,5,6,10b-tetrahydro-7-methyl-9-methoxyindeno[2,1-b]indole | CC1=C2C[C@H]3NC4=CC=CC=C4[C@H]3C2=CC(=C1)OC | C17H17NO
